US06307087B1
Synthesis of 4-methylbiphenyl via Suzuki Coupling
An oven dried resealable Schlenk tube was purged with argon and charged with palladium acetate (4.4 mg, 0.02 mmol, 2 mol %), ligand 2 [Example 1] (11.9 mg, 0.03 mmol, 3 mol %), phenylboron dihydroxide (183 mg, 1.5 mmol), and cesium fluoride (456 mg, 3.0 mmol). The tube was purged with argon, and dioxane (3 mL) and 4-chlorotoluene (0.12mL, 1.0 mmol) were added through a rubber septum. The septum was removed, the tube was sealed with a teflon screw cap and the mixture was stirred at room temperature until the starting aryl chloride had been completely consumed as judged by GC analysis. The reaction mixture was then diluted with ether (20 mL) and poured into a separatory funnel. The mixture was washed with 1M NaOH (20 mL), and the layers were separated. The aqueous layer was extracted with ether (20 mL), and the combined organic extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The crude material was then purified by flash chromatography on silica gel to give 157 mg (93%) of a glassy solid.

reactant | phenylboron dihydroxide | 1.5 mmol, 183 mg | [OH-].[OH-].C1(=CC=CC=C1)[B+2]
reactant | cesium fluoride | 3.0 mmol, 456 mg | [F-].[Cs+]
reactant | 4-chlorotoluene | 1.0 mmol, 0.12mL | ClC1=CC=C(C=C1)C | C7H7Cl
reactant | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.02 mmol, 4.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2,5,3′-Trimethylbiphenyl | 0.03 mmol, 11.9 mg | CC1=C(C=C(C=C1)C)C1=CC(=CC=C1)C | C15H16
product | 4-methylbiphenyl | 157 mg, 93% | CC1=CC=C(C=C1)C1=CC=CC=C1 | C13H12
